US07799806B2
Step 2: 2-Oxo-1-piperidin-4-yl-2,3-dihydro-1H-benzoimidazole-5-carboxylic acid allyl ester dihydrochloride
A solution of 1-(1-tert-butoxycarbonyl-piperidin-4-yl)-2-oxo-2,3-dihydro-1H-benzoimidazole-5-carboxylic acid allyl ester (1.40 g, 3.49 mmol) in dioxane (20 mL) and 4 M HCl in dioxane (20 mL) was stirred at rt for 2 h. The solvent was removed under reduced pressure and the crude product used in the consecutive step without further purification assuming quantitative deprotection and formation of the dihydrochloride salt. MS (ISP): 302.1 [M+H]+.

reactant | 1-(1-tert-butoxycarbonyl-piperidin-4-yl)-2-oxo-2,3-dihydro-1H-benzoimidazole-5-carboxylic acid allyl ester | 3.49 mmol, 1.40 g | C(C=C)OC(=O)C1=CC2=C(N(C(N2)=O)C2CCN(CC2)C(=O)OC(C)(C)C)C=C1 | C21H27N3O5
reactant | HCl | 4 M | Cl | ClH
solvent | dioxane | 20 mL | O1CCOCC1 | C4H8O2
solvent | dioxane | 20 mL | O1CCOCC1 | C4H8O2
product | 2-Oxo-1-piperidin-4-yl-2,3-dihydro-1H-benzoimidazole-5-carboxylic acid allyl ester dihydrochloride | Cl.Cl.C(C=C)OC(=O)C1=CC2=C(N(C(N2)=O)C2CCNCC2)C=C1 | InChI=1S/C16H19N3O3.2ClH/c1-2-9-22-15(20)11-3-4-14-13(10-11)18-16(21)19(14)12-5-7-17-8-6-12;;/h2-4,10,12,17H,1,5-9H2,(H,18,21);2*1H
